US07968538B2
1-(2-(1-(3,5-Dimethoxyphenyl)ethylamino)-4-(piperazin-1-yl)phenyl)-2,2,2-trifluoroethanone hydrochloride
To a solution of t-butyl 4-(3-(1-(3,5-dimethoxyphenyl)ethylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate (231 mg, 0.43 mmol) in dichloromethane (2.0 mL) and methanol (0.5 mL) was added a saturated solution of HCl in diethyl ether (20 mL). The reaction mixture was stirred for 3 hours. The solvent was removed by rotary evaporation to afford the title compound (198 mg, 97% yield). 1H NMR (400 MHz, CD3OD): δ 7.62 (m, 1H), 6.52 (s, 2H), 6.36 (m, 2H), 5.49 (s, 1H), 4.66 (m, 1H), 3.57 (m, 2H), 3.50 (m, 2H), 3.21 (m, 4H), 1.58 (d, 3H); MS (ESI) m/z: Calculated for C22H27F3N3O3: 438.2; Observed: 439.5 (M++1) [corresponding to the free base].

reactant | t-butyl 4-(3-(1-(3,5-dimethoxyphenyl)ethylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate | 0.43 mmol, 231 mg | COC=1C=C(C=C(C1)OC)C(C)NC=1C=C(C=CC1C(C(F)(F)F)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C27H34F3N3O5
reactant | HCl | Cl | ClH
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | methanol | 0.5 mL | CO | CH4O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-(2-(1-(3,5-Dimethoxyphenyl)ethylamino)-4-(piperazin-1-yl)phenyl)-2,2,2-trifluoroethanone hydrochloride | 198 mg, 97% yield | Cl.COC=1C=C(C=C(C1)OC)C(C)NC1=C(C=CC(=C1)N1CCNCC1)C(C(F)(F)F)=O | InChI=1S/C22H26F3N3O3.ClH/c1-14(15-10-17(30-2)13-18(11-15)31-3)27-20-12-16(28-8-6-26-7-9-28)4-5-19(20)21(29)22(23,24)25;/h4-5,10-14,26-27H,6-9H2,1-3H3;1H
